US08198279B2
Tert-butyl 4-(3-(dimethylamino)pyrido[3,2-b]pyrazin-8-yloxy)-2-fluorophenylcarbamate
Method D6 was used with tert-butyl 4-(3-chloropyrido[2,3-b]pyrazin-8-yloxy)-2-fluorophenylcarbamate (270 mg, 0.67 mmol) and dimethylamine to give the product as a yellow solid. Yield: 233 mg (91%).

reactant | tert-butyl 4-(3-chloropyrido[2,3-b]pyrazin-8-yloxy)-2-fluorophenylcarbamate | 0.67 mmol, 270 mg | ClC1=CN=C2C(=N1)N=CC=C2OC2=CC(=C(C=C2)NC(OC(C)(C)C)=O)F | C18H16ClFN4O3
reactant | dimethylamine | CNC | C2H7N
product | Tert-butyl 4-(3-(dimethylamino)pyrido[3,2-b]pyrazin-8-yloxy)-2-fluorophenylcarbamate | CN(C=1N=C2C(=NC1)C(=CC=N2)OC2=CC(=C(C=C2)NC(OC(C)(C)C)=O)F)C | C20H22FN5O3
